US06093732
A mixture of 4-aminophenol (5.457 g) and diethyl ethoxymethylenemalonate (10.81 g) is heated to 130° C. for 2 h with removal of ethanol by a Dean-Stark trap. The reaction is cooled to room temperature. Diphenyl ether (50 mL) is added and the mixture is heated to 250° C. for 45 min with removal of ethanol by a Dean-Stark trap. The solution is cooled to 80° C. and the resulting solid is collected and washed with hexanes. The solid is suspended in 250 mL MeOH and brought to a boil. The insoluble material is filtered and the filtrate is adsorbed onto silica and chromatographed, eluting with 5% MeOH/CH2Cl2 then with 10% MeOH/CH2Cl2. Fractions homogeneous by TLC are combined and concentrated in vacuo to yield 0.644 g of ethyl 4,6-dihydroxyquinoline-3-carboxylate. A mixture of this ester (0.500 g) and 4-chlorobenzylamine (1.518 g) are heated to 180° C. for 1 h. The solution is cooled to room temperature and diluted with CH2Cl2. The resulting solid is collected and chromatographed on silica, eluting with 3% MeOH/CH2Cl2. Fractions homogeneous by TLC are combined and concentrated in vacuo. The residue is sonicated with CH2Cl2 /hexanes. The resulting solid is collected and dried to afford 0.372 g of the desired product as a white solid.

reactant | 4-aminophenol | 5.457 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | diethyl ethoxymethylenemalonate | 10.81 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | Diphenyl ether | 50 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4,6-dihydroxyquinoline-3-carboxylate | 0.644 g | OC1=C(C=NC2=CC=C(C=C12)O)C(=O)OCC | C12H11NO4
